US04022814
Benzaldehyde was condensed with potassium butyrate and butyric anhydride according to the procedure as outlined in the patent to Archer, U.S. Pat. No. 2,931,830 to give α-ethyl cinnamic acid, mp 104°-104.8° C.

reactant | Benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | potassium butyrate | C(CCC)(=O)[O-].[K+]
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | α-ethyl cinnamic acid | C(C)C(C(=O)O)=CC1=CC=CC=C1 | C11H12O2
